US04175198
Doyle et al, J. Chem. Soc. 1955, 2265-73 (Chemical Abstracts 1956, 50, 8602g at 8603b) teach the preparation of 5-iso-propylidenehydantoin via the reaction of acetone with 2-thiohydantoin in piperdine to yield 5-iso-propylidene-2-thiohydantoin which is then desulfurized with chloroacetic acid to yield 5-iso-propylidenehydantoin.

reactant | 5-iso-propylidenehydantoin | C(C)(C)=C1C(NC(N1)=O)=O | C6H8N2O2
reactant | acetone | CC(=O)C | C3H6O
reactant | 2-thiohydantoin | N1C(=S)NC(=O)C1 | C3H4N2OS
solvent | piperdine | N1CCCCC1 | C5H11N
product | 5-iso-propylidene-2-thiohydantoin | C(C)(C)=C1C(NC(N1)=S)=O | C6H8N2OS
